US05994368
A mixture of 8-benzyloxy-2-methyl-4-(trifluoromethanesulfonyloxy)quinoline (300 mg), vinyltributyltin (263 mg), tetrakis(triphenylphosphine)palladium (0) (43.6 mg) and lithium chloride (96 mg) in 1,4-dioxane (6 ml) was refluxed for three hours and then left at ambient temperature overnight. The mixture was diluted with ethyl acetate and was added silica gel (70-230 mesh, 5 g) and stirred at ambient temperature for half an hour. The silica gel was removed by filtration and the filtrate was concentrated in vacuo. The residue was chromatographed on a silica gel column eluting with ethyl acetate-n-hexane (1:4, V/V) to give a solid. This solid was crystallized from diisopropyl ether to give 8-benzyloxy-2-methyl-4-vinylquinoline (110 mg) as pale yellow solid.

reactant | 8-benzyloxy-2-methyl-4-(trifluoromethanesulfonyloxy)quinoline | 300 mg | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CC(=NC12)C)OS(=O)(=O)C(F)(F)F | C18H14F3NO4S
reactant | vinyltributyltin | 263 mg | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | lithium chloride | 96 mg | [Cl-].[Li+]
solvent | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 43.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-benzyloxy-2-methyl-4-vinylquinoline | 110 mg | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CC(=NC12)C)C=C | C19H17NO
